US05461153
14. Preparation of 2,2'-Dithiobis(8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine).
A heterogeneous mixture composed of 76.0 g (0.380 mol) of 8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine-2(3H)-thione and 400 g of methanol at 24° C. was prepared and 45.3 g (0.400 mol) of ice cold 30 percent by weight hydrogen peroxide solution was added with stirring. An exothermic reaction took place raising the temperature to 43° C. The mixture was allowed to react for about 75 min and then another 13.0 g (0.115 mol) of ice cold 30 percent by weight hydrogen peroxide solution was added with stirring. The mixture was allowed to react for another 30 min and then the solids present were recovered by vacuum filtration. These solids were dried and were then slurried with methanol. The slurry was heated to reflux, cooled to 35°-45° C., and filtered to recover the insoluble solids. The solids were dried under reduced pressure at 40° C. to obtain 61.9 g of the title compound (80 percent of theory) as an off-white solid. The compound is a white powder melting at 201°-208° C. (dec.).

reactant | 8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine-2(3H)-thione | 0.380 mol, 76.0 g | FC=1C=2N(C(=NC1)OC)NC(N2)=S | C6H5FN4OS
reactant | hydrogen peroxide | OO | H2O2
solvent | methanol | 400 g | CO | CH4O
product | 2,2'-Dithiobis(8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine) | 61.9 g, 80 percent | FC=1C=2N(C(=NC1)OC)N=C(N2)SSC2=NN1C(=NC=C(C1=N2)F)OC | C12H8F2N8O2S2
